US07939533B2
c) (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide
A solution of 0.11 g (0.17 mmol) (R)-N-[6-(4-benzyl-2-methyl-piperazin-1-yl)-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide in 3 ml acetic acid was deoxygenated by three cycles of evacuation and flushing with argon. After addition of 0.02 g palladium on charcoal (10%) the reaction vessel was evacuated and filled with hydrogen gas. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen for 3 h. The reaction mixture was filtered over decalite followed by washing with tert-butyl methyl ether. The filtrate was washed with a 2 M aqueous solution of sodium hydroxide. The aqueous layer was extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give 98 mg (98%) of the crude title compound as an off-white solid, which was used in the next step without further purification.

reactant | (R)-N-[6-(4-benzyl-2-methyl-piperazin-1-yl)-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.17 mmol, 0.11 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=C(C=C1)F)C)C | C37H37F7N4O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 98 mg, 98% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@@H](CNCC1)C)(C)C)(F)F | C30H31F7N4O
